US07846960B2
To a solution of 3-methoxy-benzenethiol (5.75 g, 41.0 mmol) and potassium carbonate (11.45 g, 82.02 mmol) in acetonitrile (150 mL) is added butanoic acid, 4-chloro-3-oxo-, ethyl ester (6.12 mL, 45.11 mmol) at 0° C. The mixture is stirred at room temperature for 2 hours and filtered through a pad of Celite®. The filtrate is concentrated and purified by silica gel chromatography with 25-30% EtOAc/Hexanes to provide 4-(3-methoxy-phenylsulfanyl)-3-oxo-butyric acid ethyl ester (10.9 g, 99%) ES/MS m/e 267.0 (M−1).

reactant | 3-methoxy-benzenethiol | 41.0 mmol, 5.75 g | COC=1C=C(C=CC1)S | C7H8OS
reactant | potassium carbonate | 82.02 mmol, 11.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | butanoic acid | C(CCC)(=O)O | C4H8O2
reactant | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 4-(3-methoxy-phenylsulfanyl)-3-oxo-butyric acid ethyl ester | 10.9 g, 99% | C(C)OC(CC(CSC1=CC(=CC=C1)OC)=O)=O | C13H16O4S
